US04740511
2-n-Butyl-3,5-dihydro-5-phenyl-furo[3,2-c][1,8]naphthyridin-4(2H)-one
A solution of 4-hydroxy-3-(2-hydroxyhexyl)-1-phenyl-1,8-naphthyridin-2(1H)-one (2 g.) in 47% HBr was stirred in an atmosphere of nitrogen and heated to 80° C. for 41/2 hrs. after which time it was cooled and poured into water. The precipitate was filtered off, washed with water, dried in air, recrystallized from ethanol/charcoal to yield the product m.p. 179°-180° C.

reactant | 4-hydroxy-3-(2-hydroxyhexyl)-1-phenyl-1,8-naphthyridin-2(1H)-one | 2 g | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CC(CCCC)O | C20H22N2O3
reactant | water | O | H2O
solvent | HBr | Br | BrH
product | 2-n-Butyl-3,5-dihydro-5-phenyl-furo[3,2-c][1,8]naphthyridin-4(2H)-one | C(CCC)C1CC=2C(N(C=3N=CC=CC3C2O1)C1=CC=CC=C1)=O | C20H20N2O2
